US06248766B1
[(2-(2,2-Diphenylethylsulfinyl)-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetic Acid
To a solution of ethyl[(2-(2,2-diphenylethylsulfinyl)-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate (0.50 g, 0.965 mmol) in a mixture of tetrahydrofuran (16 mL) and methanol (4 mL) was added 1N-aqueous sodium hydroxide (2 mL) dropwise, and the mixture was stirred at room temperature for 20 minutes. After the solvent was distilled off under reduced pressure, 1N-hydrochloric acid was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried over MgSO4, filtered, and concentrated under reduced pressure to provide 0.36 g of the title compound as amorphous solid. Yield 76%.

reactant | ethyl[(2-(2,2-diphenylethylsulfinyl)-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate | 0.965 mmol, 0.50 g | C(C)OC(COC1=C2CCC3=C(N=C(S3)S(=O)CC(C3=CC=CC=C3)C3=CC=CC=C3)C2=CC=C1)=O | C29H27NO4S2
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
product | [(2-(2,2-Diphenylethylsulfinyl)-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetic Acid | 0.36 g, Yield 76% | C1(=CC=CC=C1)C(CS(=O)C=1SC2=C(N1)C1=CC=CC(=C1CC2)OCC(=O)O)C2=CC=CC=C2 | C27H23NO4S2
